* PSpice Model Editor - Version 15.7.0

*$
.SUBCKT NCP4303B VCC MIN_TOFF MIN_TON TRIG/DISABLE CS COMP GND DRV
* source MODEL_NCP4303_V2
X_U_U2         GND GND U_N1830577 U_N1830491 U_N1832641 M_UN0001 $G_DPWR
+  $G_DGND DFFRSH
X_U_S4    U_DRV_QB GND DRV GND Top_U_S4 
E_U_E1         U_N1832597 GND COMP GND -1
X_U_U17         GND GND U_N1978668 U_N1978326 U_N1984112 M_UN0002 $G_DPWR
+  $G_DGND DFFRSH
C_U_C1         GND U_N1829157  20p  
R_U_R11         U_N1830007 MIN_TOFF  1  
R_U_R16         U_N1829853 U_N1829043  10k  
X_U_U10         U_N1832481 U_DRV_Q U_MIN_T_ON  $G_DPWR $G_DGND AND2
C_U_C4         U_N1959992 U_N1955592  100n  
X_U_S7    U_N2051306 GND U_N2037602 GND Top_U_S7 
I_U_I3         U_N2054879 U_N2037614 DC 1u  
X_U_U31         U_EN_SET U_N1842038 PULSE_RISING PARAMS:  WIDTH=200ns
X_U_U19         U_N1832155 U_N1832265 U_N2107242  $G_DPWR $G_DGND AND2
X_U_U12         TRIG/DISABLE U_N1832359 U_N1831921 COMPAR PARAMS:  VHIGH=5V
+  VLOW=100MV
Q_U_Q2         VCC U_N1966183 U_N1966039 Q2N2222
Q_U_Q1         VCC U_N1952343 U_N1955592 Q2N2222
R_U_R23         U_MIN_T_OFF GND  100k  
R_U_R31         U_N1829157 U_N1829495  0.1  
X_U_S1    U_DRV_Q GND U_N1829157 GND Top_U_S1 
X_U_U36         U_TRIGGER_SET_DISABLE U_N1832265 $G_DPWR $G_DGND DELAY PARAMS:
+ DELAY=30n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U_F2    U_INTERNAL_6V U_N1829043 U_INTERNAL_6V U_N1832649 Top_U_F2 
X_U_U20         U_N2037602 U_N2044353 U_SLEEP_MODE COMPAR PARAMS:  VHIGH=5V
+  VLOW=100MV
X_U_U38         U_N1830491 U_N1944186 U_N1942549  $G_DPWR $G_DGND AND2
X_U_U14         VCC U_N1995676 U_N2022349 COMPAR PARAMS:  VHIGH=5V VLOW=100MV
R_U_R27         U_N1966183 VCC  10k  
C_U_C2         GND U_N1829649  20p  
R_U_R28         GND U_N1959992  0.1  
R_U_R22         GND U_MIN_T_ON  100k  
X_U_U5         U_N1829157 U_N1830413 U_EN_SET COMPAR PARAMS:  VHIGH=5V
+  VLOW=100MV
X_U_U23         U_N2107242 U_N2106454 U_N2109896  $G_DPWR $G_DGND AND2
V_U_V13         U_N1995676 GND 10
X_U_S2    U_DRV_QB GND U_N1829657 GND Top_U_S2 
I_U_I1         GND CS DC 100u  
X_U_U40         U_N2023357 U_N2022349 U_N1978326  $G_DPWR $G_DGND AND2
X_U_U28         U_N1938263 U_N1944186  $G_DPWR $G_DGND INV
X_U_U30         GND GND U_N1842038 U_N1842340 U_TRIGGER_BLANK M_UN0003 $G_DPWR
+  $G_DGND DFFRSH
V_U_V16         U_N1952343 GND 5.65V
R_U_R30         GND U_N1984112  100k  
X_U_U18         U_EN_RES U_N1842340 PULSE_RISING PARAMS:  WIDTH=200ns
X_U_U45         U_N1829081 U_N2127736  $G_DPWR $G_DGND INV
R_U_R24         U_N1952343 VCC  10k  
X_U_U11         U_N1832481 U_DRV_QB U_MIN_T_OFF  $G_DPWR $G_DGND AND2
R_U_R14         U_N1829649 U_N1832649  0.1  
X_U_S5    U_N1984112 GND U_N1955592 U_N1830533 Top_U_S5 
X_U_U7         U_EN_SET U_SET_CMP U_N1832155  $G_DPWR $G_DGND AND2
R_U_R26         GND U_SLEEP_MODE  100k  
X_U_U6         U_N1829649 U_N1829429 U_EN_RES COMPAR PARAMS:  VHIGH=5V
+  VLOW=100MV
X_U_U29         U_N1831921 U_N1830423 $G_DPWR $G_DGND DELAY PARAMS:
+ DELAY=20n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U_U13         U_TRIGGER_BLANK U_N1830423 U_N1830491  $G_DPWR $G_DGND AND2
V_U_V17         U_N1966183 GND 6.8V
V_U_V10         U_N1840739 GND 7
R_U_R25         U_N1829853 MIN_TON  1  
X_U_U37         GND GND U_N1938263 U_N1942549 M_UN0004 U_TRIGGER_SET_DISABLE
+  $G_DPWR $G_DGND DFFRSH
V_U_V15         U_N2054879 GND 7
X_U_U46         U_RES_CMP U_N1830577 U_N1938263  $G_DPWR $G_DGND AND2
I_U_I2         U_N1840739 TRIG/DISABLE DC 10u  
V_U_V4         GND U_N1829829 40m
X_U_U16         U_N1998320 VCC U_N1982696 COMPAR PARAMS:  VHIGH=5V VLOW=100MV
X_U_U15         U_N1830423 U_N1830577  $G_DPWR $G_DGND INV
X_U_U21         U_N1830423 U_N2051306  $G_DPWR $G_DGND INV
X_U_U34         U_N1898332 U_SET_CMP $G_DPWR $G_DGND DELAY PARAMS:
+ DELAY=35n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
E_U_ABM1         U_N1829429 0 VALUE { {if(V(U_N1829853)<1.7,
+  1.7,((V(U_N1829853)*0.65)+1.05))}    }
X_U_S6    U_N1984112 GND U_N1966039 U_INTERNAL_6V Top_U_S6 
R_U_R13         U_N2037602 U_N2037614  0.01  
X_U_U8         U_RES_CMP U_EN_RES U_N1870308  $G_DPWR $G_DGND AND2
X_U_U39         U_SLEEP_MODE U_N1982696 U_N1978668 $G_DPWR $G_DGND OR2
V_U_V12         U_N1998320 GND 9
X_U_U3         U_N1829829 CS U_N1898332 COMPAR PARAMS:  VHIGH=5V VLOW=100MV
X_U_U43         U_N2107242 U_N2106848  $G_DPWR $G_DGND INV
R_U_R15         U_N1829657 U_N1829649  0.1  
X_U_U41         U_N1978668 U_N2023357  $G_DPWR $G_DGND INV
X_U_U35         U_N1899227 U_RES_CMP $G_DPWR $G_DGND DELAY PARAMS:
+ DELAY=35n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U_S3    U_DRV_Q GND U_N1830533 DRV Top_U_S3 
R_U_R10         U_N1830007 U_N1829373  10k  
C_U_C5         U_N1966093 U_N1966039  10n  
E_U_ABM2         U_N1830413 0 VALUE { {if(V(U_N1830007)<2.5,
+  2.5,((V(U_N1830007)*0.65)+1.05))}    }
V_U_V11         U_N1832359 GND 2
X_U_U4         CS U_N1832597 U_N1899227 COMPAR PARAMS:  VHIGH=5V VLOW=100MV
X_U_F1    U_INTERNAL_6V U_N1829373 U_INTERNAL_6V U_N1829495 Top_U_F1 
V_U_V14         U_N2044353 GND 5V
X_U_U44         U_N2106848 U_N2106454 $G_DPWR $G_DGND DELAY PARAMS:
+ DELAY=20n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U_U33         U_N1870308 U_N1832641 U_N1829081 $G_DPWR $G_DGND OR2
R_U_R29         GND U_N1966093  0.1  
X_U_U9         U_EN_SET U_EN_RES U_N1832481 $G_DPWR $G_DGND NOR2
X_U_U1         GND GND U_N1829081 U_N1832219 U_DRV_Q U_DRV_QB $G_DPWR $G_DGND
+  DFFRSH
C_U_C3         GND U_N2037602  20p  
X_U_U24         U_N2109896 U_N2127736 U_N1832219  $G_DPWR $G_DGND AND2
.Ends NCP4303B
*$
*****************************************
* Creation: Thierry SUTTO               *
*     Date: 18 SEP 2003                 *
* Based on: n/a                         *
*****************************************
* The pulse is generated when a rising  *
* edge is detected on IN pin.           *
* The pulse width is adjustable         *
*****************************************
.SUBCKT Pulse_Rising In Pulse params: Width=100ns
X_U2         N200223 IN N385549 $G_DPWR $G_DGND XOR
X_U3         N385493 IN PULSE  $G_DPWR $G_DGND AND2
X_U4         N385549 N385493 $G_DPWR $G_DGND DELAY PARAMS: DELAY=5n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U1         IN N200223 $G_DPWR $G_DGND DELAY PARAMS: DELAY={Width} TOL=10 IO_LEVEL=0 MNTYMXDLY=0
.ENDS
*$
*****************************************
* Creation: Thierry SUTTO               *
*     Date: 18 SEP 2003                 *
* Based on: n/a                         *
*****************************************
* The pulse is generated when a falling *
* edge is detected on IN pin.           *
* The width of the pulse is an          *
* adjustable param.                     *
*****************************************
.SUBCKT Pulse_Falling IN Pulse params: Width=100ns
X_U2         N383922 N383908 PULSE  $G_DPWR $G_DGND AND2
X_U1         N383828 N383908 $G_DPWR $G_DGND DELAY PARAMS: DELAY=30ns TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U4         IN N383828 $G_DPWR $G_DGND DELAY PARAMS: DELAY={Width} TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U5         N383828 IN N383922 $G_DPWR $G_DGND XOR
.ENDS
*$
***********************************************************************
.SUBCKT COMPAR NINV INV OUT PARAMS: VHIGH=5V VLOW= 100mV
EB1 4 0 VALUE = {IF (V(NINV, INV)>0, {VHIGH}, {VLOW})}
R0 4 OUT 10R
C0 OUT 0 10PF 
.ENDS COMPAR
***************************************************************************  
*$
.subckt Top_U_S4 1 2 3 4  
S_U_S4         3 4 1 2 _U_S4
RS_U_S4         1 2 1G
.MODEL         _U_S4 VSWITCH Roff=1e6 Ron=1.0 Voff=0.2V Von=1.0V
.ends Top_U_S4
*$
.subckt Top_U_S7 1 2 3 4  
S_U_S7         3 4 1 2 _U_S7
RS_U_S7         1 2 1G
.MODEL         _U_S7 VSWITCH Roff=1e9 Ron=0.1 Voff=1.0V Von=3.0V
.ends Top_U_S7
*$
.subckt Top_U_S1 1 2 3 4  
S_U_S1         3 4 1 2 _U_S1
RS_U_S1         1 2 1G
.MODEL         _U_S1 VSWITCH Roff=1e6 Ron=0.1 Voff=1.0V Von=3.0V
.ends Top_U_S1
*$
.subckt Top_U_F2 1 2 3 4  
F_U_F2         3 4 VF_U_F2 0.2
VF_U_F2         1 2 0V
.ends Top_U_F2
*$
.subckt Top_U_S2 1 2 3 4  
S_U_S2         3 4 1 2 _U_S2
RS_U_S2         1 2 1G
.MODEL         _U_S2 VSWITCH Roff=1e6 Ron=0.1 Voff=1.0V Von=3.0V
.ends Top_U_S2
*$
.subckt Top_U_S5 1 2 3 4  
S_U_S5         3 4 1 2 _U_S5
RS_U_S5         1 2 1G
.MODEL         _U_S5 VSWITCH Roff=1e6 Ron=0.1 Voff=1.0V Von=3.0V
.ends Top_U_S5
*$
.subckt Top_U_S6 1 2 3 4  
S_U_S6         3 4 1 2 _U_S6
RS_U_S6         1 2 1G
.MODEL         _U_S6 VSWITCH Roff=1e6 Ron=0.1 Voff=1.0V Von=3.0V
.ends Top_U_S6
*$
.subckt Top_U_S3 1 2 3 4  
S_U_S3         3 4 1 2 _U_S3
RS_U_S3         1 2 1G
.MODEL         _U_S3 VSWITCH Roff=1e6 Ron=1.8 Voff=2.5V Von=3.0V
.ends Top_U_S3
*$
.subckt Top_U_F1 1 2 3 4  
F_U_F1         3 4 VF_U_F1 0.2
VF_U_F1         1 2 0V
.ends Top_U_F1
*$
